US03985896
3-(2-Diethylaminoethoxy)-7-oxo-7H-benzo[b]phenaleno[2,1-d]furan
A suspension of 4.4. g. (11.2 mmol.) of 3-(2-bromoethoxy)-7-oxo-7H-benzo[b]phenaleno[2,1-d]furan and 10 ml. of ethylamine in 250 ml. of absolute ethanol was refluxed for 4 days. The reaction mixture was filtered while hot, the filtrate was evaporated to dryness and the semi-solid residue was dissolved in methylene chloride. The methylene chloride solution was extracted twice with dilute sodium hydroxide solution and once with water, dried (MgSO4) and evaporated to dryness to give a residue which was crystallized from hexane to give the title compound, m.p. 115°-118°.

reactant | 3-(2-bromoethoxy)-7-oxo-7H-benzo[b]phenaleno[2,1-d]furan | 11.2 mmol | BrCCOC1=C2C=CC=C3C(C=4C5=C(OC4C(C=C1)=C32)C=CC=C5)=O | C21H13BrO3
reactant | ethylamine | C(C)N | C2H7N
reactant | ethanol | C(C)O | C2H6O
product | 3-(2-Diethylaminoethoxy)-7-oxo-7H-benzo[b]phenaleno[2,1-d]furan | C(C)N(CCOC1=C2C=CC=C3C(C=4C5=C(OC4C(C=C1)=C32)C=CC=C5)=O)CC | C25H23NO3
